US08492401B2
A solution of methyl 2-(2-nitrophenyl)thiazolo[5,4-b]pyridine-6-carboxylate (1 eq) in THF was added over 8 h to a mixture of lithium aluminum hydride (LAH) (4.4 eq) in THF maintaining the internal temperature at −55° C. The reaction mixture was stirred an additional 4 h at −60° C. Acetone (18 eq) was added followed by sat. aq Na2SO3. The resultant solids were removed by filtration and rinsed with THF. The combined organics were concentrated in vacuo and the crude residue crystallized from CH2Cl2 to give (2-(2-nitrophenyl)thiazolo[5,4-b]pyridin-6-yl)methanol (50% yield).

reactant | methyl 2-(2-nitrophenyl)thiazolo[5,4-b]pyridine-6-carboxylate | 1 eq | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)C(=O)OC | C14H9N3O4S
reactant | lithium aluminum hydride | 4.4 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Acetone | 18 eq | CC(=O)C | C3H6O
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | (2-(2-nitrophenyl)thiazolo[5,4-b]pyridin-6-yl)methanol | 50% yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CO | C13H9N3O3S
